US05569763
Synthesis of 2-imidazolecarbaldehyde-(5-nitro-2-pyridyl)hydrazone (compound 1)
3.10 g (20.1 mmol) of 5-nitro-2-pyridylhydrazine and 2.00 g (20.8 mmol) of 2-imidazolecarbaldehyde were dissolved in 50 ml of ethanol. To this mixture, 1 ml of acetic acid was added and heated under reflux for 2 hours while being stirred. After the resultant reaction mixture was allowed to stand still overnight, coarse crystals precipitated were filtrated by the suction-filtration. The obtained coarse crystals were recrystallized from a hot ethanol solution to obtain a desired product.

reactant | 5-nitro-2-pyridylhydrazine | 20.1 mmol, 3.10 g | [N+](=O)([O-])C=1C=CC(=NC1)NN | C5H6N4O2
reactant | 2-imidazolecarbaldehyde | 20.8 mmol, 2.00 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-imidazolecarbaldehyde-(5-nitro-2-pyridyl)hydrazone | [N+](=O)([O-])C=1C=CC(=NC1)NN=CC=1NC=CN1 | C9H8N6O2
